US04329347
6-[4-(2,4,5-Trichlorophenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 122 from 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril (m.p.: 142°-147° C.) and 2,4,5-trichloro-thiophenol.

reactant | 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
reactant | 2,4,5-trichloro-thiophenol | ClC1=C(C=C(C(=C1)Cl)Cl)S | C6H3Cl3S
product | 6-[4-(2,4,5-Trichlorophenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | ClC1=C(C=C(C(=C1)Cl)Cl)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H18Cl3NO2S
